US07064116B2
17β-(3-oxo-1-butynyl)-5α-androstan-3α-ol
A solution of 4[3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-one (40 mg, 0.07 mmol) in anhydrous dichloromethane (2.8 mL) was treated with HF pyridine (0.008 mL, 0.28 mmol) at 0° C. and the resulting mixture was stirred at RT for 2 h. Addition of water at 0° C. was followed by extraction with methylene chloride. The organic layer was washed with brine and was dried with Na2SO4 and the solvent was evaporated in vacuo. Subsequent purification of the residue with flash column chromatography using dichloromethane/ethyl acetate 95/5 as eluent afforded the desired compound named above.

reactant | 4[3α-(t-butyidiphenylsilyloxy)-5α-androstan-17β-yl]-3-butyn-2-one | 0.07 mmol, 40 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C#CC(C)=O | C39H52O2Si
reactant | pyridine | 0.28 mmol, 0.008 mL | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | dichloromethane | 2.8 mL | ClCCl | CH2Cl2
product | 17β-(3-oxo-1-butynyl)-5α-androstan-3α-ol | O=C(C#C[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@@H](CC[C@]3(C)[C@H]1CC2)O)C | C23H34O2
